US07615651B2
(3′-Carbamoyl-2-fluoro-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester (I-5e)
(3′-Cyano-2-fluoro-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester (I-5d: 1.20 g, 3.02 mmol) was dissolved in dimethyl sulfoxide (5.5 ml) and treated with potassium carbonate (0.502 g, 3.6 mmol) and 0.250 ml of a 30% hydrogen peroxide solution. After 18 hours, the reaction mixture was diluted with water and extracted with ethyl acetate (3×). The combined organic layers were washed with water and brine, dried over sodium sulfate, filtered and concentrated under reduced pressure to afford the title compound (1.25 g, 99%), which was pure enough to be taken on and used directly in the next reaction.

reactant | (3′-Cyano-2-fluoro-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester | 3.02 mmol, 1.20 g | C(C)(C)(C)OC(N(CCC(C)C)CC1=CC(=C(C=C1)C1=CC(=CC=C1)C#N)F)=O | C24H29FN2O2
reactant | potassium carbonate | 3.6 mmol, 0.502 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | OO | H2O2
solvent | dimethyl sulfoxide | 5.5 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (3′-Carbamoyl-2-fluoro-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester | 1.25 g, 99% | C(C)(C)(C)OC(N(CCC(C)C)CC1=CC(=C(C=C1)C1=CC(=CC=C1)C(N)=O)F)=O | C24H31FN2O3
